US03931179
A mixture of 6.0 g. of 6-nitro-3,4-ethylenedioxybenzoic acid methyl ester, 150 mg. of 5% palladium on charcoal and 20 mls. of glacial acetic acid is hydrogenated under an initial hydrogen pressure of 30-40 p.s.i. and without external heating. After four hours, the reaction mixture is filtered diluted with 80 ml. of ice water, stirred for up to one half hour and the resulting precipitate filtered off, water washed and dried to obtain 6-amino-3,4-ethylenedioxybenzoic acid methyl ester, m.p. 73°-77°C.

reactant | 6-nitro-3,4-ethylenedioxybenzoic acid methyl ester | COC(C1=CC2=C(C=C1[N+](=O)[O-])OCCO2)=O | C10H9NO6
catalyst | palladium on charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-amino-3,4-ethylenedioxybenzoic acid methyl ester | COC(C1=CC2=C(C=C1N)OCCO2)=O | C10H11NO4
